US06136831
A solution of 6-methylbenzothiazole (6.1 g, 41 mmol) in anhydrous THF (150 ml) was cooled to -78° C. To the cooled solution was added, with stirring, n-butyl lithium (28.1 ml of 1.6 M n-BuLi-containing hexane solution, 45 mmol) dropwise under nitrogen atmosphere. Further, a solution of N,N-dimethyl acetamide (3.9 g, 45 mmol) in anhydrous THF (70 ml) was added dropwise to the mixture at the same temperature. After completion of the addition, the mixture was stirred for an hour, and then warmed to room temperature. The reaction mixture was poured into water, and then extracted with benzene. The extract was washed with water, dried over magnesium sulfate, and then evaporated. The resulting residual powders were subjected to purification using column chromatography on silica gel (eluant, n-hexane/ethyl acetate=95/5) to afford 2-acetyl-6-methylbenzothiazole (3.7 g, 47%) as a pale yellow powder, together with the starting material (2.5 g).

reactant | 6-methylbenzothiazole | 41 mmol, 6.1 g | CC1=CC2=C(N=CS2)C=C1 | C8H7NS
reactant | n-butyl lithium | 45 mmol, 1.6 M, 28.1 ml | C(CCC)[Li]
reactant | N,N-dimethyl acetamide | 45 mmol, 3.9 g | CN(C(C)=O)C | C4H9NO
reactant | water | O | H2O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 2-acetyl-6-methylbenzothiazole | 3.7 g, 47% | C(C)(=O)C=1SC2=C(N1)C=CC(=C2)C | C10H9NOS
